US05641880
(S)-N-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-1,4-dihydro-pyridine
Combine phthalimido-(S)-phenyalanine amide (3.0 g, 10 mmol) and a solution of glutaric dialdehyde (2.0 g, 50% by weight in water) in dichloromethane (200 mL). Heat to reflux with azeotropic removal of water from the refluxate. Add p-toluenesulfonic acid (60 mg). Continue heating at reflux. Pass the refluxate through oven dried 4Å molecular sieves. After 4 days, cool the reaction mixture to ambient temperature. Extract with 5% sodium bicarbonate solution. Extract the 5% sodium bicarbonate solution with dichloromethane. Combine the organic layers and dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% tetrahydrofuran/dichloromethane to give the title compound.

reactant | phthalimido-(S)-phenyalanine amide | 10 mmol, 3.0 g | C1(C=2C(C(N1N[C@@H](CC1=CC=CC=C1)C(=O)N)=O)=CC=CC2)=O | C17H15N3O3
reactant | glutaric dialdehyde | 2.0 g | C(CC=O)CC=O | C5H8O2
reactant | water | O | H2O
reactant | p-toluenesulfonic acid | 60 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tetrahydrofuran dichloromethane | O1CCCC1.ClCCl
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (S)-N-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-1,4-dihydro-pyridine | O=C1N(C(C2=CC=CC=C12)=O)[C@H](C(=O)N1C=CCC=C1)CC1=CC=CC=C1 | C22H18N2O3
